US08859580B2
(2R,6R,11S)-6,11-Dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carbonitrile
A solution of KF (76 mg) in water (1 mL) followed by polymethylhydrosiloxane (1.0 g) is added to a mixture of (2R,6R,11S)-trifluoro-methanesulfonic acid 9-cyano-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl ester (0.30 g) and Pd(OAc)2 (7 mg) in tetrahydrofuran (3 mL). The resulting mixture is stirred at room temperature overnight before 1 M NaOH (20 mL) is added. After stirring vigorously for 1 h, the organic phase is separated and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with water and brine and dried (MgSO4). The solvent is removed and the residue is taken up in 4 M NaOH (1 mL) and methanol (3 mL) and stirred at room temperature overnight. Then, the solution is neutralized with 1 M hydrochloric acid, filtered, concentrated and the residue is purified by HPLC on reversed phase (MeCN/water).

reactant | KF | 76 mg | [F-].[K+]
reactant | (2R,6R,11S)-trifluoro-methanesulfonic acid 9-cyano-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl ester | 0.30 g | C(#N)C=1C(=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(C(F)(F)F)=O)C1)OS(=O)(=O)C(F)(F)F | C18H16F6N2O4S
reactant | NaOH | 1 M, 20 mL | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | Pd(OAc)2 | 7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (2R,6R,11S)-6,11-Dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carbonitrile | C[C@@]12C3=C(C[C@@H](NCC1)[C@H]2C)C=C(C=C3)C#N | C15H18N2
